US04159328
2-Methylimino-3-methyl-5-t-butyl-tetrahydro-1,3,5-thiadiazin-4-one (compound No. 31):
In 50 ml of toluene, were dissolved 3.7 g (0.02 mole) of N-t-butyl-N-chloromethylcarbamoyl chloride and 2.0 g (0.02 mole) of 1,3-dimethylthiourea. The solution was heated under reflux with stirring for one hour. After cooling, the precipitated crystals (m.p. >220° C. decomp.) were collected by filtration, washed with a small quantity of acetone, dissolved again in 100 ml of water, admixed with 10 ml of a 20% sodium hydroxide solution, and extracted with 50 ml of benzene. The benzene layer was dried and concentrated under reduced pressure to obtain 3.5 g (83% yield) of crystals melting at 51°-52° C.

reactant | N-t-butyl-N-chloromethylcarbamoyl chloride | 0.02 mole, 3.7 g | C(C)(C)(C)N(C(=O)Cl)CCl | C6H11Cl2NO
reactant | 1,3-dimethylthiourea | 0.02 mole, 2.0 g | CNC(=S)NC | C3H8N2S
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | 2-Methylimino-3-methyl-5-t-butyl-tetrahydro-1,3,5-thiadiazin-4-one | 3.5 g, 83% yield | CN=C1SCN(C(N1C)=O)C(C)(C)C | C9H17N3OS
